US07754756B2
b. 1-(3-amino-3-methyl-butyl)-1H-indole-5-carbaldehyde
A suspension of 1-(3-tert-butoxycarbonylamino-3-methyl-butyl)-1H-indole-5-carbaldehyde (3.5 g; 10.6 mmol) in 18 ml of water is heated for 19 hours at 150° C. in the microwave. Then the reaction mixture is extracted with DCM, dried on magnesium sulphate and freed from the solvent in vacuo. The residue is chromatographed on silica gel (DCM/methanol=1:1).

reactant | 1-(3-tert-butoxycarbonylamino-3-methyl-butyl)-1H-indole-5-carbaldehyde | 10.6 mmol, 3.5 g | C(C)(C)(C)OC(=O)NC(CCN1C=CC2=CC(=CC=C12)C=O)(C)C | C19H26N2O3
solvent | water | 18 ml | O | H2O
product | 1-(3-amino-3-methyl-butyl)-1H-indole-5-carbaldehyde | NC(CCN1C=CC2=CC(=CC=C12)C=O)(C)C | C14H18N2O
